US06930120B2
2-Methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-2-m-tolyloxy-propionic acid
The title compound was prepared from 3-(4-hydroxyphenyl)-2-methyl-2-m-tolyloxy-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester using the procedure of Example 60. 1H NMR (400 MHz, CDCl3) δ 7.76 (d, 1H, J=3.52 Hz), 7.46 (d, 1H, J=4.69 Hz), 7.17 (d, 2H, J=8.21 Hz), 7.16-7.10 (m, 2H), 6.87-6.86 (m, 1H), 6.81 (d, 2H, J=8.60 Hz), 6.72-6.69 (m, 2H), 4.21 (t, 2H, J=6.26 Hz), 3.24 (d, 1H, J=14.08 Hz), 3.12 (d, 1H, J=14.08 Hz), 3.01 (t, 2H, J=6.26 Hz), 2.38 (s, 3H), 2.30 (s, 3H), 1.41 (s, 3H); HRMS (ES+) m/z exact mass calcd for C27H28NO5S 478.1688, found 478.1692.

reactant | 3-(4-hydroxyphenyl)-2-methyl-2-m-tolyloxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC=1C=C(C=CC1)C)C)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | 2-Methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-2-m-tolyloxy-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1SC=CC1)OC=1C=C(C=CC1)C | C27H27NO5S
